*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-02[uF]/25[V]
* Murata P/N :GCH155R71E223KE01
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH155R71E223KE01 Port1 Port2
C01 Port1 N01 2.16e-08
R01 Port1 N01 2.27e+09
L02 N01 N02 1.80e-10
R03 N02 N03 5.15e-02
C04 N03 N04 2.67e-06
R04 N03 N04 1.39e+03
C05 N04 N05 8.36e-06
R05 N04 N05 1.00e+02
C06 N05 N06 3.19e-06
R06 N05 N06 4.80e+01
C07 N06 N07 2.84e-06
R07 N06 N07 5.05e+00
C08 N07 N08 3.18e-06
R08 N07 N08 6.31e-01
C09 N08 N09 2.16e-06
R09 N08 N09 1.67e-01
C10 N09 N10 7.90e-07
R10 N09 N10 4.13e-02
L11 N10 N11 6.50e-11
R11 N10 N11 1.67e-01
C12 N11 N12 3.02e-08
L12 N11 N12 2.20e-11
R12 N11 N12 3.18e-02
C13 N12 Port2 2.57e-12
L13 N12 Port2 1.18e-10
R13 N12 Port2 1.64e+01
.ENDS GCH155R71E223KE01
